data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_533679_0,[C:1]([N:3]([N:4]([O:7][H:8])[H:9])[C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([H:10])([H:11])[H:12]>>[C:1]([N:3]1[C:5]([C:2]([H:13])([H:14])[H:15])([N:4]([O:7][H:8])[H:9])[C:6]1([H:16])[H:17])([H:10])([H:11])[H:12],54.94640999999135
MR_442773_1,[C:1](=[C:2](/[C:4](=[C:5]([H:13])[H:14])[H:12])[O:7][H:9])(\[N:3]([H:10])[H:11])[O:6][H:8]>>[C:1]1([N:3]([H:10])[H:11])([O:6][H:8])[C:2]([O:7][H:9])=[C:4]([H:12])[C:5]1([H:13])[H:14],43.72420000000332
MR_211730_1,[C:1]([O:5][N:2]([C:3](=[C:4]([H:12])[H:13])[O:6][H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([O:5][C:4](/[C:3](=[N:2]\[H:8])[O:6][H:7])([H:12])[H:13])([H:9])([H:10])[H:11],39.83809250000576
MR_525894_0,[C:1]([C:2]([H:17])([H:18])[H:19])(/[C:3](=[C:4](\[N:6]([H:15])[H:16])[O:9][H:12])[O:8][H:11])([N:5]([H:13])[H:14])[O:7][H:10]>>[C:1]([C:2]([H:17])([H:18])[H:19])([C:4](=[C:3]([O:8][H:11])[O:9][H:12])[N:6]([H:15])[H:16])([N:5]([H:13])[H:14])[O:7][H:10],58.574614999998005
MR_307719_0,[C:1](/[N:8]=[C:3]([C:4](/[N:5]([H:10])[H:11])=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])\[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[C:3]([O:7][H:9])=[C:4]([N:5]([H:10])[H:11])[C:6]1([C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15],52.02100500002942
MR_79154_1,[C:1](/[C:7](=[C:4](/[N:2]([C:3]([N:5]([H:10])[H:11])=[O:8])[H:9])[N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:7]([C:3]([N:5]([H:10])[H:11])=[O:8])(/[C:4](=[N:2]\[H:9])[N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],50.90279999999908
MR_191215_1,[C:1]([C:4]([N:2](/[C:3]([N:7]([H:14])[H:15])=[N:8]/[N:6]([H:12])[H:13])[N:5]([H:10])[H:11])=[O:9])([H:16])([H:17])[H:18]>>[C:1]([C:4]([N:8](/[C:3](=[N:2]/[N:5]([H:10])[H:11])[N:7]([H:14])[H:15])[N:6]([H:12])[H:13])=[O:9])([H:16])([H:17])[H:18],37.483085000030485
MR_573518_0,[N:1]([C:2]([N:3]([H:8])[H:9])=[O:6])(/[C:4](=[N:5]\[H:10])[H:11])[H:7]>>[N:1](=[C:4](/[N:5]([C:2]([N:3]([H:8])[H:9])=[O:6])[H:10])[H:11])\[H:7],45.56779499998569
MR_266870_2,[C:1]([C:2]([N:4]([H:9])[H:10])([H:14])[H:15])([N:3]([C:5](=[C:6]([H:16])[H:17])[H:13])[O:7][H:8])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:2]([H:14])([H:15])[N:4]([H:9])[C:5]([C:6]([H:10])([H:16])[H:17])([H:13])[N:3]1[O:7][H:8],63.26831500002541
MR_238305_0,[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])(/[N:6]=[C:4](\[O:5][H:8])[H:9])([H:10])[H:11]>>[C:1]([N:6][C@@:4]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:7])([O:5][H:8])[H:9])([H:10])[H:11],73.05731499999368
MR_596589_0,[C:1]([C:3]([H:13])([H:14])[H:15])(/[C:4](=[N:6]/[C:2]([H:10])([H:11])[H:12])[H:9])([N:5]=[O:7])[H:8]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[C:4]([N:5]=[O:7])([H:9])[N:6]1[C:2]([H:10])([H:11])[H:12],71.2438400000066
MR_350979_0,[C:1](=[C:2](/[N:4]([H:11])[H:12])[O:5][H:7])(\[N:3]([H:9])[H:10])[O:6][H:8]>>[C:1](/[C:2](=[N:4]\[H:11])[O:5][H:7])([N:3]([H:9])[H:10])([O:6][H:8])[H:12],67.37906749999084
MR_464427_0,[C@@:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[C@@:5](/[N:7]=[C:2](/[N:4]([H:10])[H:11])[H:9])([H:12])[O:6]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[C:5](/[N:7]=[C:2](/[N:4]([H:10])[H:11])[H:9])([H:12])[O:6]1,61.30110249999845
MR_81650_0,[C:1]([C:2](/[C:4](=[N:6]\[N:3]([H:7])[H:8])[H:9])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:2]1=[C:4]([H:9])[N:6]([N:3]([H:7])[H:8])[C:5]1([H:13])[H:14])([H:10])([H:11])[H:12],48.5157899999976
MR_192377_0,[C:1]([C:5]([C:4]1([N:7]([H:11])[H:12])[C:6]([C:2]([H:16])([H:17])[H:21])([C:3]([H:18])([H:19])[H:20])[N:9]1[H:10])=[O:8])([H:13])([H:14])[H:15]>>[C:1](/[C:5](=[C:4](\[N:7]([H:11])[H:12])[N:9]=[C:6]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])[O:8][H:10])([H:13])([H:14])[H:15],45.413430000018735
MR_171985_1,[C@:1]1([C:2]([H:12])([H:13])[H:14])([H:9])[C@:4]([N:5]([H:7])[H:8])([H:10])[C@:6]1([C:3]([H:15])([H:16])[H:17])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([N:5]([H:7])[H:8])=[C:6](/[C:3]([H:15])([H:16])[H:17])[H:11])([H:9])[H:10],66.9573874999854
MR_443450_0,[C:1]([N:2]([H:7])[H:8])(=[C:4](\[N:3]([H:10])[H:11])[H:12])/[N:5]=[N:6]\[H:9]>>[C:1]1([N:2]([H:7])[H:8])=[N:5][N:6]([H:9])[C:4]1([N:3]([H:10])[H:11])[H:12],34.86891999996047
MR_638222_0,[C:1]([C:4]([H:17])([H:18])[H:19])([N:5]([O:6][C:2]([H:11])([H:12])[H:13])[O:8][H:9])([O:7][C:3]([H:14])([H:15])[H:16])[H:10]>>[C:1]([C:4]([H:17])([H:18])[H:19])([N:5]([O:7][C:3]([H:14])([H:15])[H:16])[O:8][H:9])([O:6][C:2]([H:11])([H:12])[H:13])[H:10],69.49123250000852
MR_151720_2,[C:1]([C:2]([C:4](=[C:5]([H:13])[H:14])[H:12])=[O:7])([N:3]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]1([N:3]([H:10])[H:11])([H:9])[C:2]([C:4](=[C:5]([H:13])[H:14])[H:12])([O:6][H:8])[O:7]1,49.39554500002359
MR_629856_0,[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6](=[C:8]([H:23])[H:24])[H:11])[H:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[N:9]=[C:7]([H:21])[H:22]>>[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([N:9]=[C:7]([H:21])[H:22])[H:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:6](=[C:8]([H:23])[H:24])[H:11],26.78107250001318
